US04492693
A solution of 2.70 g (10.7 mM) of α-methoxy-α-(6-fluoro-3-benzothienyl)acetic acid (from Preparation 1) in 60 ml of benzene containing 2.8 ml of oxalyl chloride and 4 drops of N,N-dimethylformamide was stirred under nitrogen at 25° C. for two hours. The solvent was then removed by evaporation under reduced pressure to give α-methoxy-α-(6-fluoro-3-benzothienyl)acetyl chloride. The acid chloride was dissolved in 60 ml of acetone and added dropwise over five minutes to a stirred cold (5° C.) solution of 2.41 g (11.3 mM) of 7-amino-3-methyl-3-cephem-4-carboxylic acid in 60 ml of acetone and 120 ml of water containing 2.84 g (33.8 mM) of sodium bicarbonate. The reaction mixture was stirred for two hours at 5° C. and then warmed to 25° C. and stirred for an additional two hours. The reaction mixture was diluted with 1N hydrochloric acid to pH 7.5 and stored at 0° C. for twelve hours. Following removal of acetone from the reaction mixture by evaporation, the aqueous mixture was acidified to pH 2 with 1N hydrochloric acid, and the aqueous acid layer was extracted several times with dichloromethane. The organic extracts were combined, washed with brine, dried, and the solvent was removed by evaporation under reduced pressure to provide 5.02 g (100%) of 7-[α-methoxyimino-α-(6-fluoro-3-benzothienyl)acetamido]-3-methyl-3-cephem-4-carboxylic acid. NMR (CDCl3): δ2.24 (s, 3H); δ4.04 and 4.15 (two singlets, 3H); δ5.08 and 5.11 (two dd, 1H).

reactant | α-methoxy-α-(6-fluoro-3-benzothienyl)acetic acid | 10.7 mM, 2.70 g | COC(C(=O)O)C1=CSC2=C1C=CC(=C2)F | C11H9FO3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
catalyst | N,N-dimethylformamide | 4 drops | CN(C=O)C | C3H7NO
product | α-methoxy-α-(6-fluoro-3-benzothienyl)acetyl chloride | COC(C(=O)Cl)C1=CSC2=C1C=CC(=C2)F | C11H8ClFO2S
